US04293330
2-[[(4,6-dimethyl-2-pyridinyl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
To 1.2 g of 2-amino-4,6-dimethylpyridine in 30 ml of methylene chloride at ambient temperature was added dropwise, with stirring 2.4 g of methyl 2-isocyanatosulfonylbenzoate. After stirring for one hour at room temperature a solid precipitated from the mixture. Filtration yielded 1.8 g of a crystalline white solid which melted at 181°-182° C. and showed absorption peaks by infrared spectroscopy at 1750, 1700, 1630 and 1580 cm-1. The nuclear magnetic resonance spectrum (60 mc) showed peaks at 7-8.6 δ (multiplet) for o-substituted benzene, 4.36 δ (singlet) for OCH3 and 2.76, 2.7 δ (singlets) for the two methyl groups on the pyridine ring.

reactant | 2-amino-4,6-dimethylpyridine | 1.2 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | methyl 2-isocyanatosulfonylbenzoate | 2.4 g | N(=C=O)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO5S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[[(4,6-dimethyl-2-pyridinyl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 1.8 g | CC1=CC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C16H17N3O5S
